US05395824
Preparation of N-Benzyloxycarbonyl-L-leucine-(1-ureidoiminomethyl)pentylamide
In 10 ml of ethanol was dissolved 850 mg of N-benzyloxycarbonyl-L-leucine-(1-formyl)pentylamide obtained in the same manner as in Example 4-(b), and 2 ml of water and 1.0 g of semicarbazide hydrochloride were added thereto, followed by stirring at room temperature for 2 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure. The residue was purified by medium-pressure column chromatography on silica gel to obtain 900 mg of the titled compound as a colorless crystal.

reactant | N-benzyloxycarbonyl-L-leucine-(1-formyl)pentylamide | 850 mg | C(=O)C(CCCC)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C20H30N2O4
reactant | water | 2 ml | O | H2O
reactant | semicarbazide hydrochloride | 1.0 g | Cl.NNC(=O)N
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | N-Benzyloxycarbonyl-L-leucine-(1-ureidoiminomethyl)pentylamide | 900 mg | N(C(=O)N)N=CN(C([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)CCCCC | C21H33N5O4
